US04006145
110 g of 1-carbethoxy-4-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine, 1.5 litres of ethylene glycol, 104 g of potassium hydroxide and 5.4 ml of water are heated to 160° C for 1 hour. The mixture is then poured on to water and extracted with chloroform. The organic phase is washed with water, dried over magnesium sulphate and evaporated. There is obtained 1-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine as an oil.

reactant | 1-carbethoxy-4-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine | 110 g | C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=CC=C3)C=CC(=C2)Cl | C21H23ClN2O2S
reactant | ethylene glycol | 1.5 litres | C(CO)O | C2H6O2
reactant | potassium hydroxide | 104 g | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 5.4 ml | O | H2O
product | 1-(2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl)-piperazine | ClC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19ClN2S
